US04686230
20 ml of a 30% strength sodium methylate solution are added dropwise to a suspension of 16.9 g of 5-methoxy-2-methyl-4-nitropyridine 1-oxide in 170 ml of dry methanol and the mixture is stirred at 20° C. for 15 hours and then at 50° C. for 4 hours. The pH is brought to 7 by careful addition of concentrated sulphuric acid, while cooling with ice, the mixture is concentrated, the residue is extracted by stirring with 200 ml of methylene chloride, the insoluble constituents are filtered off, 10 ml of toluene are added and the mixture is concentrated to dryness again. 15.2 g (98% of theory) of 4,5-dimethoxy-2-methylpyridine 1-oxide are obtained as colourless crystals of m.p. 118°-121° C.

reactant | sodium methylate | C[O-].[Na+]
reactant | 5-methoxy-2-methyl-4-nitropyridine 1-oxide | 16.9 g | COC=1C(=CC(=[N+](C1)[O-])C)[N+](=O)[O-] | C7H8N2O4
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 170 ml | CO | CH4O
product | 4,5-dimethoxy-2-methylpyridine 1-oxide | 15.2 g, 98% | COC1=CC(=[N+](C=C1OC)[O-])C | C8H11NO3
